US05608056
To a solution of allyl (4R,5S,6S)-3-[(2R,4S)-1-allyloxycarbonyl-2-(1-methylimidazol-2-ylmethyl)-pyrrolidin-4-yl]thio-6-[(1R)-1-hydroxyethyl ]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (1.25 g) in acetone (12 ml) was added methyl iodide (1.47 ml ) at room temperature. The mixture was stirred for 35 hours at the same temperature. The reaction mixture was evaporated in vacuo to give allyl (4R,5S,6S)-3-[(2R,4S)-1-allyloxycarbonyl-2-(1, 3-dimethyl-2-imidazoliomethyl)-pyrrolidin-4-yl]thio-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate iodide (1.49 g) as an amorphous solid.

reactant | allyl (4R,5S,6S)-3-[(2R,4S)-1-allyloxycarbonyl-2-(1-methylimidazol-2-ylmethyl)-pyrrolidin-4-yl]thio-6-[(1R)-1-hydroxyethyl ]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 1.25 g | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC1=C(N2C([C@@H]([C@H]2[C@H]1C)[C@@H](C)O)=O)C(=O)OCC=C)CC=1N(C=CN1)C | C26H34N4O6S
reactant | methyl iodide | 1.47 ml | CI | CH3I
solvent | acetone | 12 ml | CC(=O)C | C3H6O
product | allyl (4R,5S,6S)-3-[(2R,4S)-1-allyloxycarbonyl-2-(1, 3-dimethyl-2-imidazoliomethyl)-pyrrolidin-4-yl]thio-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate iodide | 1.49 g | [I-].C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC1=C(N2C([C@@H]([C@H]2[C@H]1C)[C@@H](C)O)=O)C(=O)OCC=C)C[CH2+]1N(C=CN1C)C | InChI=1S/C27H39N4O6S.HI/c1-7-11-36-26(34)23-24(16(3)22-21(17(4)32)25(33)31(22)23)38-19-13-18(14-20-28(5)9-10-29(20)6)30(15-19)27(35)37-12-8-2;/h7-10,16-19,21-22,32H,1-2,11-15,20H2,3-6H3;1H/q+1;/p-1/t16-,17-,18+,19+,21-,22-;/m1./s1
